US08557830B2
A mixture of phosphorous oxychloride (5 mL) and 6-bromo-7-methyl-8-nitroquinazolin-4(3H)-one (800 mg, 2.82 mmol) was refluxed at 130° C. for 4 h. On cooling, POCl3 was removed under reduced pressure. The resulting crude product residue was diluted with ice-water and extracted out of the aqueous layer with DCM (3×20 mL). The combined organic extracts were dried over anhydrous sodium sulfate and concentrated to give 6-bromo-4-chloro-7-methyl-8-nitroquinazoline (595 mg, 70% yield) as an amorphous light yellow solid. MS (ESI, pos. ion) m/z: 302 [M+H]+

reactant | phosphorous oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-bromo-7-methyl-8-nitroquinazolin-4(3H)-one | 2.82 mmol, 800 mg | BrC=1C=C2C(NC=NC2=C(C1C)[N+](=O)[O-])=O | C9H6BrN3O3
product | 6-bromo-4-chloro-7-methyl-8-nitroquinazoline | 595 mg, 70% yield | BrC=1C=C2C(=NC=NC2=C(C1C)[N+](=O)[O-])Cl | C9H5BrClN3O2
